US08232306B2
4′-(4-Bromo-2-ethoxy-5-formylimidazol-1-ylmethyl)-3′-fluorobiphenyl-2-carboxylic Acid t-Butyl Ester
5-Bromo-2-ethoxy-3H-imidazole-4-carbaldehyde (10.0 g, 45.6 mmol), 4′-bromomethyl-3′-fluorobiphenyl-2-carboxylic acid t-butyl ester (16.7 g, 45.6 mmol) and potassium carbonate (9.5 g, 68.5 mmol) were dissolved in DMF (200 mL) at 0° C. After 10 minutes, the mixture was allowed to warm to room temperature and was stirred overnight. The mixture was filtered and concentrated in vacuo. The concentrate was extracted with EtOAc (2×200 mL) and sat. aq. NaHCO3:water; 1:1 (150 mL). The combined organic fractions were dried over Na2SO4, filtered, and concentrated in vacuo. The crude material was recrystallized from EtOH (20 mL) and water (40 mL) to afford a white solid. The filtrate was concentrated in vacuo and purified by silica gel chromatography (EtOAc:hexanes) to yield the title compound as a white solid (3.6 g).

reactant | 5-Bromo-2-ethoxy-3H-imidazole-4-carbaldehyde | 45.6 mmol, 10.0 g | BrC1=C(NC(=N1)OCC)C=O | C6H7BrN2O2
reactant | 4′-bromomethyl-3′-fluorobiphenyl-2-carboxylic acid t-butyl ester | 45.6 mmol, 16.7 g | C(C)(C)(C)OC(=O)C=1C(=CC=CC1)C1=CC(=C(C=C1)CBr)F | C18H18BrFO2
reactant | potassium carbonate | 68.5 mmol, 9.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 4′-(4-Bromo-2-ethoxy-5-formylimidazol-1-ylmethyl)-3′-fluorobiphenyl-2-carboxylic Acid t-Butyl Ester | 3.6 g | C(C)(C)(C)OC(=O)C=1C(=CC=CC1)C1=CC(=C(C=C1)CN1C(=NC(=C1C=O)Br)OCC)F | C24H24BrFN2O4
